US05187164
N-(2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-3-thienyl)- N1 -(3-quinuclidinyl)thiourea
3-Amino-2-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)thiophene (1.0 g, 5 mmol) in 10 ml dry methylene chloride was added dropwise to a vigorously stirred mixture of thiophosgene (10.5 ml, 6.5 mmol) in 10 ml H2O. Upon addition on 1.0 ml triethylamine was added and stirring continued for 20 min. whereupon the organic phase was isolated and the aqueous phase was washed with methylene chloride. The combined organic phases were added to a solution of 3-aminoquinuclidine, dihydrochloride (1.2 g, 6 mmol) dissolved in 1 ml H2O and made alkaline with 50% NaOH. This mixture was then stirred at room temperature for 6 hours whereupon 5 ml saturated sodium bicarbonat was added. The desired product was isolated by filtration, washed with water and dried to give 0.2 g. M p 155°-157° C.

reactant | 3-Amino-2-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)thiophene | 5 mmol, 1.0 g | NC1=C(SC=C1)C1=NC(=NO1)C1CC1 | C9H9N3OS
reactant | thiophosgene | 6.5 mmol, 10.5 ml | C(=S)(Cl)Cl | CCl2S
reactant | 3-aminoquinuclidine, dihydrochloride | 6 mmol, 1.2 g | Cl.Cl.NC1CN2CCC1CC2
reactant | NaOH | [OH-].[Na+]
reactant | sodium bicarbonat | 5 ml | C([O-])(O)=O.[Na+]
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 ml | O | H2O
solvent | H2O | 1 ml | O | H2O
product | N-(2-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-3-thienyl)- N1 -(3-quinuclidinyl)thiourea | C1(CC1)C1=NOC(=N1)C=1SC=CC1N(C(=S)N)C1CN2CCC1CC2 | C17H21N5OS2
